### PR TITLE
feat(EllipticCurve): rational points on singular cuspidal cubics

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by acmepjz** [comment]
Looks like that you defined `IsNodal : Prop` in another PR. But you didn't define `IsCuspidal : Prop` in this PR. Is it defined in other files?

**Comment by erdOne** [comment]
Yeah that will come later.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+-/
+
+namespace WeierstrassCurve
+
+variable {R K : Type*} [CommRing R] [Field K] [DecidableEq K]
+
+variable (R) in
+/-- The standard cusp `y² = x³`. -/
+@[simps]
+def standardCusp : WeierstrassCurve R :=
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean:26]: Note to myself that this is defined in [an old PR](#13847).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
...
+  right_inv k := by
+    simp only [inv_pow]
+    split_ifs with h'
+    · simp [h']
+    · field_simp [h']; ring
+  map_add'
+  | .zero, .zero => by simp [← Affine.Point.zero_def]
+  | .some h, .zero => by simp [← Affine.Point.zero_def]
+  | .zero, .some h' => by simp [← Affine.Point.zero_def]
+  | .some (x := x₁) (y := y₁) h₁, .some (x := x₂) (y := y₂) h₂ => by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean:77]: I thought you could do something like `rintro @⟨x₁, y₁, h₁⟩` etc e.g. see `Affine.Point.toClass`.

**Review by Multramate — COMMENTED** [review]
What will be the eventual contents of this file? Will it include ~~`IsCuspidal` and~~ some kind of transformation into something that looks like the standard cusp?

EDIT: I didn't read the comments above.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean:77]: I think we should just make them explicit. Or else the infoview isn't really readable.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean:26]: The link is not working...

File: Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+      .some (x := k⁻¹ ^ 2) (y := k⁻¹ ^ 3) (by simp [pow_right_comm _ 2 3, hk]) :=
+  dif_neg hk
+
+lemma standardCuspEquiv_symm_inv_of_ne {k : K} (hk : k ≠ 0) :
+    standardCuspEquiv.symm k⁻¹ =
+      .some (x := k ^ 2) (y := k ^ 3) (by simp [pow_right_comm _ 2 3, hk]) := by
+  rw [standardCuspEquiv_symm_of_ne]
+  · congr <;> simp
+  · simpa
+
```
Comment (adamtopaz) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean:121]: For the sake of completeness, I think you should add lemmas about the behavior of `standardCuspEquiv` at zero. Otherwise, LGTM!

File: Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+    simpa [Affine.nonsingular_iff, standardCusp_equation_iff, eq_neg_iff_add_eq_zero, ← two_mul]
+  intro H
+  have h : y = 0 ↔ x = 0 := by rw [← pow_eq_zero_iff two_ne_zero, H, pow_eq_zero_iff three_ne_zero]
+  simp only [ne_eq, h, and_self, ← or_and_right, and_iff_right_iff_imp]
+  exact fun _ ↦ not_and_or.mp fun h ↦ one_ne_zero (by linear_combination h.1 - h.2)
+
+/-- The group of nonsigular rational points on the standard cusp `y² = x³`
+is isomorphic (as groups) to `K`. -/
+noncomputable
+def standardCuspEquiv : (standardCusp K).toAffine.Point ≃+ K where
```
[the remark this answers is not in the document]
Comment (adamtopaz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean:47]: If this makes the `map_add` proof shorter, then I agree!

File: Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Singular/Cusp.lean:26]: I'm reviving #13847 and I'll take the decl name `standardCusp` and the file name but nothing else from this PR.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
